### ISSUE TITLE
How to resume?

### ISSUE THREAD

**Issue by shanjiaming** [augustepoiroux/LeanInteract#24]
I want to do ast parsing. However, it's possible that my code have some error to let the proof not able to continue. In that case, I still want to parse. Is it possible for me to do it?

```

response = server.run(Command(cmd="""import Mathlib
theorem eq_comm_demo (x y : ℕ) : x = y ↔ y = x := by
  constructor
  · 
    have a: x = y -> y = x := by
      intro h 
      rw [h]
      <;>linarith
    exact a
  · 
    rw [a]
    rw [h]

""", all_tactics=True))

for tactic in response.tactics:
    print(tactic.tactic + " " + str(tactic.start_pos) + " " + str(tactic.end_pos))
```

```
constructor Pos(line=3, column=2) Pos(line=3, column=13)
have a : x = y -> y = x := by
  intro h
  rw [h] <;> linarith Pos(line=5, column=4) Pos(line=8, column=17)
intro h Pos(line=6, column=6) Pos(line=6, column=13)
rw [h] Pos(line=7, column=6) Pos(line=7, column=12)
exact a Pos(line=9, column=4) Pos(line=9, column=11)
rw [a] Pos(line=11, column=4) Pos(line=11, column=10)
```
You notice that the last `rw [h]` is not recognized because `rw [a]` is a wrong step. However, I still want to get that tactic out.

**Comment by shanjiaming** [comment]
https://github.com/frenzymath/jixia 

I find this project can output AST and solve my issue. Thanks!

**Comment by shanjiaming** [comment]
Well, but I test it and it works.
.lake/build/bin/jixia -a astoutput.json Example.lean 

Example.lean
```import Lean

theorem eq_trans_sym {a b c : α} : a = b → b = c → c = a := by
  intro h₁ h₂
  rw [h₁]
  rw [h₁]
  rw [h₂]
```
The proof will fail in the second  rw [h₁].

jixia works because the output json has something like
```
"node": {
    "kind": [
        "Lean",
        "Parser",
        "Tactic",
        "rwRule"
    ],
    "info": "none",
    "args": [
        {
            "node": {
                "kind": [
                    "null"
                ],
                "info": "none",
                "args": []
            }
        },
        {
            "ident": {
                "val": [
                    "h₂"
                ],
                "rawVal": "h₂",
                "preresolved": [],
                "info": {
                    "original": {
                        "trailing": "",
                        "pos": 295,
                        "leading": "",
                        "endPos": 299
                    }
                }
            }
        }
    ]
}
```
